US07423050B2
17. 2,4,6-Trifluoro-N-[6-(piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide
Add 1-chloroethyl chloroformate (0.8 g) into a solution of 2,4,6-trifluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide (0.216 g) in dichloroethane (10 mL) and heat at reflux for 1 hr. Then add more 1-chloroethyl chloroformate (1 mL) and heat at reflux overnight. Add methanol (10 mL) to the reaction mixture, concentrate to a small volume, dilute with methanol again, load onto an SCX column (10 g), wash with methanol, and elute with 2M NH3-methanol, evaporate and purify on a silica gel column (CH2Cl2 with 2 M NH3 in methanol) to obtain the title compound (61 mg). Mass spectrum (electric spray) m/z=364 (M+1); 1H NMR (CDCl3): 8.55 (d, J=8.1 Hz, 1H), 7.92 (dd, J=8.0, 8.0 Hz 1H), 7.84(1H, J=8.0 Hz, 1H), 6.81 (m, 3H), 3.89 (m, 1H), 3.12 (br d, 2H), 2.81 (m, 2H), 1.85 (m, 2H), 1.74 (br, 2H), 1.61 (m, 2H).

reactant | 1-chloroethyl chloroformate | 0.8 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 2,4,6-trifluoro-N-[6-(1-methyl-piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide | 0.216 g | FC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCN(CC2)C)C(=CC(=C1)F)F | C19H18F3N3O2
reactant | 1-chloroethyl chloroformate | 1 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 2,4,6-Trifluoro-N-[6-(piperidin-4-ylcarbonyl)-pyridin-2-yl]-benzamide | 61 mg | FC1=C(C(=O)NC2=NC(=CC=C2)C(=O)C2CCNCC2)C(=CC(=C1)F)F | C18H16F3N3O2
